US08426447B2
A solution of 8-(pyridin-3-yl)-1H-chromeno[3,2-c]pyridine-1,10(2H)-dione (0.100 g, 0.345 mmol) in THF (3.00 mL) was cooled to 0° C. and methylmagnesium bromide (3.0 M in diethyl ether) (0.345 mL, 1.034 mmol) was added dropwise. The mixture stirred at 0° C. for 1 h. The mixture was quenched at 0° C. with saturated aqueous ammonium chloride solution and diluted with ethyl acetate. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a tan solid. The material was dissolved in 1,2-dichloroethane (3.00 mL), pyridinium p-toluenesulfonate (8.66 mg, 0.034 mmol) was added, and the mixture was heated at reflux for 2 h to afford a tan suspension. This mixture was filtered, and the solids were washed with 1,2 dichloroethane and dried to afford 10-methylene-8-(pyridin-3-yl)-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one as a tan solid. MS m/z=289.0 [M+H]+. Calcd for C18H12N2O2: 288.1.

reactant | 8-(pyridin-3-yl)-1H-chromeno[3,2-c]pyridine-1,10(2H)-dione | 0.345 mmol, 0.100 g | N1=CC(=CC=C1)C1=CC=2C(C=3C(NC=CC3OC2C=C1)=O)=O | C17H10N2O3
reactant | methylmagnesium bromide | 1.034 mmol, 3.0 M, 0.345 mL | C[Mg]Br
reactant | pyridinium p-toluenesulfonate | 0.034 mmol, 8.66 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | THF | 3.00 mL | C1CCOC1 | C4H8O
solvent | 1,2-dichloroethane | 3.00 mL | ClCCCl | C2H4Cl2
product | 10-methylene-8-(pyridin-3-yl)-2,10-dihydro-1H-chromeno[3,2-c]pyridin-1-one | C=C1C=2C=C(C=CC2OC2=C1C(NC=C2)=O)C=2C=NC=CC2 | C18H12N2O2
